US08134004B2
Step CA4A: 2-(6-bromo-2-naphthyl)-1,1,1-trifluoropropan-2-ol
To a DMF (25 ml) solution of 1-(6-bromo-2-naphthyl)ethanone (1230 mg, 4.94 mmol), trimethylsilyl trifluoromethane (1050 mg, 7.41 mmol) and lithium acetate (16.3 mg, 0.247 mmol) were added and the mixture was stirred for 12 hours at room temperature. Then, the reaction was quenched with ethyl acetate and water, then the organic layer was separated and dried over sodium sulfate. The solvent was evaporated to give the residue which was treated with methanol-hydrogen chloride to give the product (1.25 g, 63%) as colorless oil. 1H NMR (300 MHz, CDCl3) δ ppm 1.88 (3H, s), 7.57-7.60 (1H, m), 7.68-7.81 (3H, m), 8.02-8.05 (2H, m).

reactant | 1-(6-bromo-2-naphthyl)ethanone | 4.94 mmol, 1230 mg | BrC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H9BrO
reactant | trimethylsilyl trifluoromethane | 7.41 mmol, 1050 mg | C[Si](C)(C)C(F)(F)F | C4H9F3Si
reactant | methanol hydrogen chloride | CO.Cl
catalyst | lithium acetate | 0.247 mmol, 16.3 mg | C(C)(=O)[O-].[Li+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 2-(6-bromo-2-naphthyl)-1,1,1-trifluoropropan-2-ol | 1.25 g, 63% | BrC=1C=C2C=CC(=CC2=CC1)C(C(F)(F)F)(C)O | C13H10BrF3O
